US09447097B2
c) 1-(4-Amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-yl 2-aminoacetate
1-(4-(1,3-Dioxoisoindolin-2-yl)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-yl 2-(1,3-dioxoisoindolin-2-yl)acetate (300 mg, 475 μmol) was combined with THF (5 mL) to give a white suspension. To this suspension was added hydrazine in water (1000 μl, 11.2 mmol) and the solution was stirred for 0.75 hour at room temperature. The mixture was cooled to 0° C., 1N hydrochloric acid (30 mL) and DCM (50 mL) were added. The white precipitate a (phtalylhydrazide) was removed by filtration and the organic phase was discarded. The aqueous phase was lyophilized and the residue was taken up with acetonitrile (20 mL) and DIEA (pH 10). After evaporation of solvent, the residue was purified by preparative HPLC (Gemini NX 3u 50×4.6mm; acetonitrile/water/Et3N) to give the title compound (111 mg, 63%) as amorphous white solid; LC-MS (UV peak area, ESI) 99%, 372.4 (MH+).

reactant | 1-(4-(1,3-Dioxoisoindolin-2-yl)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-yl 2-(1,3-dioxoisoindolin-2-yl)acetate | 475 μmol, 300 mg | O=C1N(C(C2=CC=CC=C12)=O)CC(=O)OC(CN1C(=NC=2C(=NC=3C=CC=CC3C21)N2C(C1=CC=CC=C1C2=O)=O)COCC)(C)C | C35H29N5O7
reactant | hydrazine | NN | H4N2
reactant | water | 11.2 mmol, 1000 μl | O | H2O
reactant | hydrochloric acid | 1N, 30 mL | Cl | ClH
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(4-Amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-yl 2-aminoacetate | 111 mg, 63% | NCC(=O)OC(CN1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC)(C)C | C19H25N5O3
